US07915267B2
To a solution of ethyl {[2-(aminocarbonyl)-4-nitrophenyl]amino}(oxo)acetate (2.292 g) in a mixed solvent of THF (100 mL)-ethanol (50 mL) was added 10% palladium carbon (405 mg), and the mixture was subjected to catalytic reduction under hydrogen atmosphere at room temperature for 8 hr. The catalyst was filtered off, and the filtrate was concentrated. The obtained crude crystals were washed with diisopropyl ether to give ethyl {[4-amino-2-(aminocarbonyl)phenyl]amino}(oxo)acetate (1.96 g, 96%).

reactant | ethyl {[2-(aminocarbonyl)-4-nitrophenyl]amino}(oxo)acetate | 2.292 g | NC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])NC(C(=O)OCC)=O | C11H11N3O6
reactant | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | palladium carbon | 405 mg | [C].[Pd]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl {[4-amino-2-(aminocarbonyl)phenyl]amino}(oxo)acetate | 1.96 g, 96% | NC1=CC(=C(C=C1)NC(C(=O)OCC)=O)C(=O)N | C11H13N3O4
